US04105689
Preparation of [2-(2,4,6-tribromophenylcarbamoyl-)2-(methyl)-ethyl-]phosphinic acid.
330 g (1 mol) of 2,4,6-tribromoaniline was reacted as described in Example 1 with 207 g (1.02 mol) of [2-(chloroformyl-)2-(methyl)ethyl-]methyl phosphinic acid chloride (prepared as described by V. K. Khairullin et al., C.A. 69, 106816 k (1968)). After hydrolysis with 6 liters of water, the resulting [2-(2,4,6-tribromophenylcarbamoyl-) 2-(methyl)ethyl-]methyl phosphinic acid was filtered off and dried at 80° C under vacuum.

reactant | 2,4,6-tribromoaniline | 1 mol, 330 g | BrC1=C(N)C(=CC(=C1)Br)Br | C6H4Br3N
reactant | [2-(chloroformyl-)2-(methyl)ethyl-]methyl phosphinic acid chloride | 1.02 mol, 207 g | ClC(=O)C(CP(=O)(C)Cl)C | C5H9Cl2O2P
reactant | water | 6 liters | O | H2O
product | [2-(2,4,6-tribromophenylcarbamoyl-)2-(methyl)-ethyl-]phosphinic acid | BrC1=C(C(=CC(=C1)Br)Br)NC(=O)C(CP(O)=O)C | C10H11Br3NO3P
